### ISSUE TITLE
proof: `simp_all` before splitting the subject's own `if` loses the induction hypothesis when a callee branches on `y == h`

### ISSUE THREAD

**Issue by jasisz** [jasisz/aver#1418]
`count(y, insert(x, xs)) = count(y, x :: xs)` is a textbook lemma, but it falls to `sorry`. Every arm of the portfolio runs `simp_all [count, insert']` on the whole cons goal first. There are two problems with that:

- `count y (if x ≤ head then … else …)` stays folded around the `if`, so a later `split` leaves `count` terms that `omega` treats as opaque;
- in the `y == head` branch, `simp_all` substitutes `y := head` into the hypotheses and the IH no longer matches the goal. Even the variants "split first" and "`apply_ite (count y)`" end with `count head tail` vs `count head (insert' x tail)` unrelated for `omega`.

```aver
module EqSplit
    intent =
        "count(y, insert(x, xs)) equals count(y, x :: xs); count branches on y == h."

fn insert(x: Int, xs: List<Int>) -> List<Int>
    ? "Puts x before the first element it does not exceed."
    match xs
        [] -> [x]
        [h, ..t] -> match x <= h
            true -> List.prepend(x, xs)
            false -> List.prepend(h, insert(x, t))

verify insert
    insert(2, [1, 3]) => [1, 2, 3]

fn count(y: Int, xs: List<Int>) -> Int
    ? "How many times y occurs in xs."
    match xs
        [] -> 0
        [h, ..t] -> match y == h
            true -> 1 + count(y, t)
            false -> count(y, t)

verify count
    count(1, [1, 2, 1]) => 2

verify insert law insertCount
    given y: Int = [-1, 0, 1, 2]
    given x: Int = [-1, 0, 1, 2]
    given xs: List<Int> = [[], [0], [1, 2], [0, 0, 2], [-1, 1, 1]]
    count(y, insert(x, xs)) => count(y, List.prepend(x, xs))
```

```text
{"backend":"lean",…,"sorries":1,"sorry_laws":["insert.insertCount"],"universal":false,"universal_laws":0}
```

What closes it is: split the subject's own `if` first, then rewrite with a per-constructor equation of the callee and the IH via `simp only` (not `simp_all`), then split the remaining `if`s:

```lean
theorem count_cons (y h : Int) (t : List Int) :
    count y (h :: t) = (if y == h then 1 + count y t else count y t) := by
  rw [count]

theorem insertCount_hand : ∀ (y x : Int) (xs : List Int), count y (insert' x xs) = count y (x :: xs) := by
  intro y x xs
  induction xs with
  | nil => simp [insert', count]
  | cons h t ih =>
    rw [insert']
    split
    · rfl
    · simp only [count_cons, ih]
      split <;> split <;> omega
-- 'insertCount_hand' depends on axioms: [propext, Quot.sound]
```

Two possible changes: emit a `f_cons` unfolding lemma per constructor for `termination_by` definitions, and add a portfolio arm `rw [subject]; split <;> simp only [<cone cons lemmas>, ih] <;> (repeat' split) <;> omega`.

Workaround today: writing the callee without the branch around the recursive call, `hits(y, h) + count(y, t)` with `fn hits(y, h) = match y == h true -> 1 false -> 0`, makes the same law universal.

`main` at `6df7aa70` (aver 0.30.0-dev), Lean 4.32.0, `aver proof <file> --verify-mode auto -o out --check-json`.
